US06284785B1
(RS)-1-(4-Floro-benzenesulfonyl)-2-(4-trifluoromethyl-phenyl)-pyrrolidine
The title compound, white solid, m.p. 114° C. and MS: m/e=373 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-trifluoromethyl-phenyl)-pyrrolidine and 4-fluoro-benzenesulfonyl chloride.

reactant | (RS)-2-(4-trifluoromethyl-phenyl)-pyrrolidine | FC(C1=CC=C(C=C1)C1NCCC1)(F)F | C11H12F3N
reactant | 4-fluoro-benzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | (RS)-1-(4-Floro-benzenesulfonyl)-2-(4-trifluoromethyl-phenyl)-pyrrolidine | FC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=CC=C(C=C1)C(F)(F)F | C17H15F4NO2S
